.model Zmod NMF
.model Ymod TXL
B1 n1 0 V=5
C1 n1 n2 1u
C2 n2 n3 10n
G1 n3 n4 {n1} {n2} 1m
C3 n4 n5 100p
G2 n5 n6 {n2} {n3} 2m
C4 n6 n7 2u
T1 n7 n8 0 0 Z0=50
Y1 n8 n11 0 0 Ymod
Z1 n11 0 n14 off Zmod
C5 n14 n15 5n
G3 n15 0 {n5} {n6} 0.5m
B2 n14 0 V=1
B3 n15 0 V=1
B4 n1 0 V=1