.model Dmod D
.model Jmod NJF
.model Qmod NPN
.model Zmod NMF
.model Omod LTRA
.model Ymod TXL
V1 nV 0 DC 12
F1 nV 0 V1 1
B1 nV 0 V={12}
D1 nV nD off Dmod
J1 nV 0 nJ1s off Jmod
Q1 nV nJ1s nE Qmod
Q2 nV nJ1s nE2 off Qmod
Z1 nV 0 nJ1s off Zmod
O1 nV 0 {nJ1s} {0} Omod
Y1 nV 0 {nJ1s} {0} Ymod
I1 nV 0 DC 2m AC 1m
I2 nV 0 DC 1m AC 0.5m
B2 nD 0 V=1
B3 nJ1s 0 V=1
B4 nE 0 V=1
B5 nE2 0 V=1
D2 nV 0 off Dmod
J2 nV 0 nJ1s off Jmod
Q3 nV nJ1s nV Qmod
Z2 nV 0 nJ1s off Zmod
O2 nV 0 {nJ1s} {0} Omod
Y2 nV 0 {nJ1s} {0} Ymod
B6 nV 0 V=1