L1 n1 0 10u
Q1 n1 n2 n3 Qmodel
M1 n4 n5 n3 0 Mmodel
J1 n2 n4 n5 Jmodel
L2 n2 0 5u
Q2 n4 n2 0 Qmodel2
M2 n3 n1 0 0 Mmodel2
J2 n1 n2 n4 Jmodel2
L3 n3 n4 2u
L4 n5 0 1u
M3 n2 n4 0 0 Mmodel3
.model Qmodel NPN
.model Qmodel2 PNP
.model Mmodel PMOS
.model Mmodel2 PMOS
.model Mmodel3 PMOS
.model Jmodel NJF
.model Jmodel2 PJF
.end