V1 in 0 DC 12 AC 1
R1 in n1 1k
D1 n1 n2 off Dmod1
D2 n2 n3 Dmod2
Q1 n3 n4 n5 off Qmod1
Q2 n5 n6 n7 Qmod2
R2 n4 0 2k
R3 n6 0 3k
R4 n7 0 4k
.model Dmod1 D
.model Dmod2 D
.model Qmod1 NPN
.model Qmod2 PNP
.end