L1 N1 N2 10u
C1 N2 N3 1n
M1 N4 N5 N6 N6 mM1
J1 N8 N9 N4 mJ1
S1 N3 N4 N8 N9 mS1
T1 N1 N5 N3 N4 Z0=50
Y1 N6 N8 N3 N4 mY1 LEN=5u
C2 N5 N9 2n
L2 N9 0 5u
C3 N4 0 500p
L3 N6 N7 2u
C4 N7 0 100p
L4 N3 N1 1u
C5 N1 N4 200p
L5 N4 N2 3u
.model mM1 NMOS
.model mJ1 NJF
.model mS1 SW
.model mY1 TXL